US06080750
2-Amino-6-chloro-4-[[(1-hydroxymethyl-3-hydroxy-1-cyclobutyl)methyl]-amino]pyrimidine (compound No. 38)
2-Amino-6-chloro-4-[[(1-hydroxymethyl-3-oxo-1-cyclobutyl)methyl]-amino]pyrimidine (2.21 g, 8.26 mmol) was dissolved in ethanol (80 ml) and sodium borohydride (0.31 g, 8.26 mmol) was added portionwise under ice-cooling. The mixture was stirred at room temperature for 30 minutes. The mixture was neutralized with hydrochloric acid-ethanol. The solvent was distilled away under reduced pressure and the residue was purified by silica gel column chromatography (chloroform:methanol=100:7) to give white crystals (2.14 g, quantitative), m.p. 136-139° C. (ethyl acetate).

reactant | 2-Amino-6-chloro-4-[[(1-hydroxymethyl-3-oxo-1-cyclobutyl)methyl]-amino]pyrimidine | 8.26 mmol, 2.21 g | NC1=NC(=CC(=N1)NCC1(CC(C1)=O)CO)Cl | C10H13ClN4O2
reactant | sodium borohydride | 8.26 mmol, 0.31 g | [BH4-].[Na+]
reactant | hydrochloric acid ethanol | Cl.C(C)O
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 2-Amino-6-chloro-4-[[(1-hydroxymethyl-3-hydroxy-1-cyclobutyl)methyl]-amino]pyrimidine | NC1=NC(=CC(=N1)NCC1(CC(C1)O)CO)Cl | C10H15ClN4O2
